US04826833
Oxidation of 6-methoxy-2-methylbenzothiazole (10.0 g, 55.9 mmole) with selenium dioxide (6.2 g, 55.9 mmole) in 300 ml dioxane for six hours by the method of Preparation H gave 6.0 g of 6-methoxy-2-formylbenzothiazole after chromatography of the crude product on silica gel, eluting with chloroform. 1H--NMR(CDCl3)ppm(delta): 3.9 (s, 3H), 7.1-7.5 (m, 2H), 8.0-8.3 (m, 1H), 10.1 (s, 1H).

reactant | 6-methoxy-2-methylbenzothiazole | 55.9 mmole, 10.0 g | COC1=CC2=C(N=C(S2)C)C=C1 | C9H9NOS
reactant | selenium dioxide | 55.9 mmole, 6.2 g | [Se](=O)=O | O2Se
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | 6-methoxy-2-formylbenzothiazole | 6.0 g | COC1=CC2=C(N=C(S2)C=O)C=C1 | C9H7NO2S
